US07595414B2
In a 200 mL-volume flask equipped with a stirrer, a thermometer and a dropping funnel was placed 25.0 g (223 mmol) of potassium t-butoxide, and the flask was purged with argon. Then, 100 mL of methylcyclohexanone was placed in the flask. Subsequently, 12.5 g (106 mmol) of methyl 2-methoxypropionate (prepared by the method of Reference Example 1) was dropped under cooling with ice, and further 7.70 g (107 mmol) of 2-butanone was slowly dropped. The mixture was cooled to 10° C. and stirred for 30 minutes for carrying out a reaction. After the reaction was complete, 70 mL of water was placed in the flask under cooling with ice. The aqueous portion was taken out, neutralized with acetic acid, and subjected to extraction with methylcyclohexane. The methylcyclohexane extract was washed with water, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated and distilled under reduced pressure (77° C., 1.26 kPa) to give 10.4 g (yield: 62%) of 2-methoxy-3,5-heptanedione as colorless liquid.

reactant | potassium t-butoxide | 223 mmol, 25.0 g | CC(C)([O-])C.[K+]
reactant | methyl 2-methoxypropionate | 106 mmol, 12.5 g | COC(C(=O)OC)C | C5H10O3
reactant | 2-butanone | 107 mmol, 7.70 g | CC(CC)=O | C4H8O
reactant | water | 70 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methoxy-3,5-heptanedione | 10.4 g, yield: 62% | COC(C)C(CC(CC)=O)=O | C8H14O3
